US03992441
2-Bromo-5-(3-benzyloxypiperidinosulfonyl)benzoic Acid
2-Bromo-5-chlorosulfonylbenzoic acid is reacted with 3-benzyloxypiperidine by the method of Example 1. Recrystallization from ether-hexane yields theproduct, m.p. 177°-178° C.

reactant | 2-Bromo-5-chlorosulfonylbenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)Cl | C7H4BrClO4S
reactant | 3-benzyloxypiperidine | C(C1=CC=CC=C1)OC1CNCCC1 | C12H17NO
product | 2-Bromo-5-(3-benzyloxypiperidinosulfonyl)benzoic Acid | BrC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CC(CCC1)OCC1=CC=CC=C1 | C19H20BrNO5S
